US05399778
Preparation of Cyclohexanone Diisobutyl Ketal (CHIBK)
Since the sump analysis exhibited values of 79% CHIBK, 16% isobutanol, and 1% each of methyl isobutyl mixed ketal, cyclohexanone and cyclohexene ether (more than 90% conversion of cyclohexanone), the reaction mixture was neutralized with 1 g of sodium methylate, and the distillation was commenced. Under reduced pressure of initially 20 hPa and then further reduced to 5 hPa, isobutanol and the other side products were distilled off. At a boiling point of 98° C./5 hPa without reflux the cyclohexanone diisobutyl ketal was removed at the head of the column. The preliminary fraction which distilled off in advance was composed of 95 g (65% isobutanol, 17% CHIBK, cyclohexanone, cyclohexene ether and mixed ketals), together 0.21 mol CHIBK, cyclohexanone and derivatives thereof.

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | cyclohexene ether | C1=CCCCC1.CCOCC
reactant | sodium methylate | 1 g | C[O-].[Na+]
reactant | isobutanol | C(C(C)C)O | C4H10O
product | Cyclohexanone Diisobutyl Ketal | C(C(C)C)OC1(CCCCC1)OCC(C)C | C14H28O2
